US03960542
The intermediate 2(-1-[4-chlorophenyl]ethylthio)pyridine N-oxide was prepared from 1-(4-chlorophenyl)ethylchloride and 2-mercaptopyridine N-oxide, sodium salt by the procedure described in Example 2. Melting point 106° - 108°C. Structure confirmed by IR and NMR.

reactant | 1-(4-chlorophenyl)ethylchloride | ClC1=CC=C(C=C1)C(C)Cl | C8H8Cl2
reactant | 2-mercaptopyridine N-oxide | SC1=[N+](C=CC=C1)[O-] | C5H5NOS
reactant | sodium | [Na] | Na
product | 2(-1-[4-chlorophenyl]ethylthio)pyridine N-oxide | Yield 78% | ClC1=CC=C(C=C1)C(C)SC1=[N+](C=CC=C1)[O-] | C13H12ClNOS
